US07238725B2
N4-(4-pyridyl)-9-(4-fluorobenzyl)-1-methoxy-9H-4-carbazole carboxamide
To a suspension of 9-(4-fluoro benzyl)-1-methoxy 9H-4-carbazole carboxylicacid (100 mg, 0.286 mmoles) in dry chloroform (15 ml), thionyl chloride (0.063 ml, 0.86 mmoles) was added followed by 2 drops of dry DMF and the reaction mixture was sired under nitrogen atmosphere for two hours. Solvent and the excess thionyl chloride were evaporated from the reaction mixture and dried under vacuum. To this residue, dry chloroform (15 ml) was added followed by 4-aminopyridine (27 mg, 0.286 mmoles) and triethylamine (0.06 ml, 0.43 mmoles) were added and the reaction mixture was stirred under nitrogen atmosphere for 17 hours. The reaction mixture was diluted with chloroform (30 ml) and washed with water (2×10 ml). The organic layer was washed with brine (20 ml), dried over Na2SO4 and concentrated to give 45 mg of the title product as pale yellow solid, m.p: 230-232° C.

reactant | 9-(4-fluoro benzyl)-1-methoxy 9H-4-carbazole carboxylicacid | 0.286 mmoles, 100 mg | FC1=CC=C(CN2C3=CC=CC=C3C=3C(=CC=C(C23)OC)C(=O)O)C=C1 | C21H16FNO3
reactant | thionyl chloride | 0.86 mmoles, 0.063 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-aminopyridine | 0.286 mmoles, 27 mg | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 0.43 mmoles, 0.06 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N4-(4-pyridyl)-9-(4-fluorobenzyl)-1-methoxy-9H-4-carbazole carboxamide | 45 mg | N1=CC=C(C=C1)NC(=O)C1=CC=C(C=2N(C3=CC=CC=C3C12)CC1=CC=C(C=C1)F)OC | C26H20FN3O2
